US08461348B2
2-[4-(ethoxycarbonyl)-1H-pyrazol-1-yl]-2-methylpropanoic acid
By a reaction in the same manner as in Example 10a and using ethyl 1H-pyrazole-4-carboxylate (1.40 g, 10.0 mmol) and tert-butyl 2-bromo-2-methylpropanate (6.70 g, 30.0 mmol), the title compound (1.88 g, 83%) was obtained as a colorless oil.

reactant | ethyl 1H-pyrazole-4-carboxylate | 10.0 mmol, 1.40 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | tert-butyl 2-bromo-2-methylpropanate | 30.0 mmol, 6.70 g | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
product | 2-[4-(ethoxycarbonyl)-1H-pyrazol-1-yl]-2-methylpropanoic acid | 1.88 g, 83% | C(C)OC(=O)C=1C=NN(C1)C(C(=O)O)(C)C | C10H14N2O4
